US05723450
4-(O-Benzylhydroxylamino)-3-methoxy-2-methylpyridine
16 g of 4-chloro-3-methoxy-2-methylpyridine, 63 g of phenol and 40 g of O-benzylhydroxylamine are stirred at 120° C. under nitrogen for 4 hours. After cooling, the mixture is shaken with 500 ml of 2N NaOH and CH2Cl2. The aqueous phase is extracted a second time with CH2Cl2. After concentrating the combined CH2Cl2 phases, excess O-benzylhydroxylamine is distilled off in vacuo at 0.6 mm. The residue crystallizes on stirring with hexane. After filtering off with suction and washing with hexane 21.6 g=88.4% of product remain. The product is recrystallized from ethyl acetate. M.p.: 130° C.

reactant | 4-chloro-3-methoxy-2-methylpyridine | 16 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
reactant | phenol | 63 g | C1(=CC=CC=C1)O | C6H6O
reactant | O-benzylhydroxylamine | 40 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | NaOH | 2N, 500 ml | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(O-Benzylhydroxylamino)-3-methoxy-2-methylpyridine | C(C1=CC=CC=C1)ONC1=C(C(=NC=C1)C)OC | C14H16N2O2
